US05607950
4-(2-Cyano-2,2-diphenylethyl)-1-(4-methylphenylsulphonyl)piperidine
Sodium hydride (3.2 g, 80 mmol; 60% dispersion in oil) was added to a stirred solution of diphenylacetonitrile (13.5 g, 70 mmol) in toluene (200 ml) and the mixture was heated under reflux for 2 hours, treated with a solution of 1-(4-methylphenylsulphonyl)-4-(4-methylphenylsulphonyloxymethyl)piperidine (25.0 g, 60 mmol--see Preparation 15) in toluene (50 ml), heated under reflux for a further 2 hours, allowed to cool to room temperature and diluted with water. The layers were separated and the organic layer was washed with water and saturated brine, dried over magnesium sulphate and evaporated. The residue was crystallised from ethanol to give the title compound (23.0 g, 86%) as colourless crystals, m.p. 130° C.

reactant | Sodium hydride | 80 mmol, 3.2 g | [H-].[Na+]
reactant | diphenylacetonitrile | 70 mmol, 13.5 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | 1-(4-methylphenylsulphonyl)-4-(4-methylphenylsulphonyloxymethyl)piperidine | 60 mmol, 25.0 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C20H25NO5S2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(2-Cyano-2,2-diphenylethyl)-1-(4-methylphenylsulphonyl)piperidine | 23.0 g, 86% | C(#N)C(CC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O2S
